US07560567B2
Preparation of 1-[3-chloro-5-(trifluoromethyl)-2-pyridinyl]-2-butanone
2.08 g of methyl 2-[3-chloro-5-(trifluoromethyl)-2-pyridinyl]-3-oxopentanoate (0.00677 mol) and 0.12 g of sodium chloride are dissolved in a mixture of water (0.25 mL) and dimethylsulfoxyde (20 mL). The reaction medium is stirred at a temperature of 130° C. for 8 hours. After cooling, 100 mL of water are added to the reaction mixture which is extracted twice with 150 mL of ethyl acetate.

reactant | methyl 2-[3-chloro-5-(trifluoromethyl)-2-pyridinyl]-3-oxopentanoate | 0.00677 mol, 2.08 g | ClC=1C(=NC=C(C1)C(F)(F)F)C(C(=O)OC)C(CC)=O | C12H11ClF3NO3
reactant | sodium chloride | 0.12 g | [Cl-].[Na+]
solvent | water | 0.25 mL | O | H2O
solvent | dimethylsulfoxyde | 20 mL | CS(=O)C | C2H6OS
solvent | water | 100 mL | O | H2O
product | 1-[3-chloro-5-(trifluoromethyl)-2-pyridinyl]-2-butanone | ClC=1C(=NC=C(C1)C(F)(F)F)CC(CC)=O | C10H9ClF3NO
